US06492394B1
To a solution of N-benzyloxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-(tetrahydropyran-2-yloxy)propionamide (1.7 g, 4.3 mmol) in methanol (100 mL) at 0° C. was added p-toluenesulfonic acid monohydrate (150 mg). After 12 h, the reaction mixture was warmed to room temperature and stirred for an additional 5 h. The reaction mixture was concentrated and the residue was chromatographed (Biotage 40M; 20% to 50% ethyl acetate-hexanes) to afford N-benzyloxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-hydroxypropionamide (1.60 g).

reactant | N-benzyloxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-(tetrahydropyran-2-yloxy)propionamide | 4.3 mmol, 1.7 g | C(C1=CC=CC=C1)ONC([C@@H](COC1OCCCC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC2=C(C=C1)OCO2)=O | C32H38N2O9S
reactant | p-toluenesulfonic acid monohydrate | 150 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 100 mL | CO | CH4O
product | N-benzyloxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-hydroxypropionamide | 1.60 g | C(C1=CC=CC=C1)ONC([C@@H](CO)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC2=C(C=C1)OCO2)=O | C27H30N2O8S
